US08865682B2
To a stirred solution of 6-fluorooxindole (2.6 g, 17.5 mmol) in anhydrous THF (30 mL) under nitrogen was added 1.0M LiHMDS/THF solution (35 mL, 35 mmol). The mixture was stirred at room temperature for 10 minutes. Methyl tetronate (1.0 g, 8.8 mmol) was added as one portion. After stirring at room temperature for 1 hour, the reaction was cooled to 0° C., and quenched with 2M HCl until pH=3. The mixture was stirred at room temperature for 2 more hours, and poured into 250 mL of water. The resulting precipitates were filtered, rinsed with water and dried in vacuum to give 6-fluoro-3-(4-methoxy-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one as off-white solid. Yield: 840 mg, 38%.

reactant | 6-fluorooxindole | 17.5 mmol, 2.6 g | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | LiHMDS THF | 35 mmol, 1.0M, 35 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | Methyl tetronate | 8.8 mmol, 1.0 g | CC1C(=O)COC1=O | C5H6O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-fluoro-3-(4-methoxy-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one | FC1=CC=C2C(C(NC2=C1)=O)=C1OCC(=C1)OC | C13H10FNO3
